US07935815B2
Synthesis of tert-butyl (E)-3-{5-[(2,2-dimethoxyethyl)formylamino]-6-methoxypyridin-2-yl}acrylate
tert-Butyl (E)-3-(5-formylamino-6-methoxypyridin-2-yl)acrylate synthesized according to the method in Examples 168 and 169 (4 g) was dissolved in DMF (60 mL). Cesium carbonate (9.38 g) was added and the reaction solution was heated to 60° C. Bromoacetaldehyde dimethylacetal (2.08 mL) was added to the reaction solution. The reaction solution was stirred for two hours, heated to 110° C. and stirred for 10 hours. The reaction solution was left to cool. Ice water was added under ice-cooling, followed by extraction with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (carrier: Chromatorex Si; elution solvent: heptane:ethyl acetate=7:1→heptane:ethyl acetate=1:2) to obtain the title compound (3.99 g). The property values of the compound are as follows.

reactant | tert-Butyl (E)-3-(5-formylamino-6-methoxypyridin-2-yl)acrylate | C(=O)NC=1C=CC(=NC1OC)/C=C/C(=O)OC(C)(C)C | C14H18N2O4
reactant | Cesium carbonate | 9.38 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Bromoacetaldehyde dimethylacetal | 2.08 mL | COC(CBr)OC | C4H9BrO2
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | tert-butyl (E)-3-{5-[(2,2-dimethoxyethyl)formylamino]-6-methoxypyridin-2-yl}acrylate | 3.99 g | COC(CC(=O)NC=1C=CC(=NC1OC)/C=C/C(=O)OC(C)(C)C)OC | C18H26N2O6
